parameters sky130_fd_pr__special_nfet_01v8__toxe_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_01v8__vth0_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_01v8__voff_slope_spectre=0.0
subckt sky130_fd_pr__special_nfet_01v8 (d g s b)
parameters l=1 w=1 nf=1.0 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0 mult=1
msky130_fd_pr__special_nfet_01v8 (d g s b) m_sky130_fd_pr__special_nfet_01v8__model l=l w=w nf=nf ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd
@if l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.6e-7 && w*$scale < 3.9e-7
    model m_sky130_fd_pr__special_nfet_01v8__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=3.932304e-09 + mc_mm_switch * 0 * (4.148e-9 * 0.948 * (sky130_fd_pr__special_nfet_01v8__toxe_slope / sqrt(l * w * mult))) toxm=4.148e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=-1.0316e-8 lint=2.40595e-8 vth0=-3.045170427e-01 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__vth0_slope / sqrt(l * w * mult)) lvth0=8.666520914e-08 wvth0=4.836515918e-07 pvth0=-6.378445558e-14 k1=0.90707349 k2=-4.744370369e-01 lk2=4.621229419e-08 wk2=1.600181815e-07 pk2=-2.110335779e-14 k3=2.0 k3b=0.54 w0=0.0 dvt0=0.0 dvt1=0.53 dvt2=-0.032 dvt0w=-3.58 dvt1w=1670600.0 dvt2w=0.068 dsub=3.290138835e+00 ldsub=-3.516486635e-07 wdsub=-1.172595665e-06 pdsub=1.546430889e-13 minv=0.0 voffl=5.8197729e-9 lpe0=1.0325e-7 lpeb=-7.082e-8 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.002052 cit=0.0 voff=-0.20753 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__voff_slope / sqrt(l * w * mult)) nfactor=-6.688470389e+00 lnfactor=1.088828051e-06 wnfactor=1.671005340e-06 pnfactor=-2.203738553e-13 eta0=8.627946104e-04 leta0=-1.137862046e-10 weta0=-3.704657991e-10 peta0=4.885740006e-17 etab=-0.043998 u0=7.747248961e-02 lu0=-6.937005170e-09 wu0=-3.146929871e-08 pu0=4.150202584e-15 ua=-2.844194477e-09 lua=2.236698432e-16 wua=7.848989109e-16 pua=-1.035132533e-22 ub=1.292468824e-17 lub=-1.383783580e-24 wub=-5.386690503e-24 pub=7.104021303e-31 uc=-1.406321093e-10 luc=3.060840758e-17 wuc=1.367229783e-16 puc=-1.803116311e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=3.059330551e+05 lvsat=-1.544023911e-02 wvsat=1.860450219e-02 pvsat=-2.453580354e-9 a0=1.5 ags=1.25 a1=0.0 a2=0.42385546 b0=-5.001032725e-06 lb0=8.007066192e-13 wb0=4.651160935e-12 pb0=-6.133997552e-19 b1=8.433660613e-08 lb1=-8.962580816e-15 wb1=-3.961352350e-14 pb1=5.224271092e-21 keta=-9.616948578e-01 lketa=1.178117843e-07 wketa=4.295744207e-07 pketa=-5.665270418e-14 dwg=0.0 dwb=0.0 pclm=1.592022520e-02 lpclm=2.179066793e-08 wpclm=1.287409885e-07 ppclm=-1.697849030e-14 pdiblc1=0.35697215 pdiblc2=0.0084061121 pdiblcb=-0.10329577 drout=0.50332666 pscbe1=791419880.0 pscbe2=1.0e-12 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=65.968 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=0.0 prwg=0.021507 wr=1.0 alpha0=1.249543199e-07 lalpha0=-9.674041067e-15 walpha0=2.526371056e-22 palpha0=-3.331806745e-29 alpha1=0.85 beta0=1.626781834e+01 lbeta0=-2.463297501e-07 wbeta0=4.422417987e-17 pbeta0=-5.826450433e-24 agidl=0.0 bgidl=2300000000.0 cgidl=0.5 egidl=0.8 toxref=4.148e-9 dlcig=0.0 aigbacc=1.0 bigbacc=0.0 cigbacc=0.0 nigbacc=0.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=0.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=0.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=2.3267e-8 dwc=-3.2175e-8 xpart=0.0 cgso=2.4083264e-10 cgdo=2.4083264e-10 cgbo=1.0e-13 cgdl=0.0 cgsl=0.0 clc=1.0e-7 cle=0.6 cf=1.4067e-12 ckappas=0.6 vfbcv=-1.0 acde=0.4 moin=6.9 noff=3.4037 voffcv=-0.17287 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.84 noia=2.5e+42 noib=0.0 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-1.0e-7 af=1.0 kf=0.0 tnoia=15000000.0 tnoib=9900000.0 rnoia=0.94 rnoib=0.26 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=0.00275 jsws=6.0e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=11.7 xjbvs=1.0 pbs=0.729 cjs=0.00104159201 mjs=0.44 pbsws=0.2 cjsws=2.856175336e-11 mjsws=0.0009 pbswgs=0.95578 cjswgs=1.852257592e-10 mjswgs=0.8 tnom=30.0 kt1=-1.530400733e-01 lkt1=-8.957445446e-09 wkt1=-9.402256751e-17 pkt1=1.239974790e-23 kt2=-0.028878939 at=9.760153678e+03 lat=4.478722719e-03 wat=-2.983096056e-11 pat=3.934124834e-18 ute=-9.014130388e-01 lute=-4.980224329e-08 wute=-2.556764437e-07 pute=3.371886508e-14 ua1=-2.3847336e-11 ub1=7.0775317e-19 uc1=1.4718625e-10 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2928 tpb=0.0012287 tcj=0.000792 tpbsw=0.0 tcjsw=1.0e-5 tpbswg=0.0 tcjswg=0.0 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=9.8e-9 lkvth0=0.0 wkvth0=2.0e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=-2.7e-8 lku0=0.0 wku0=0.0 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.2 steta0=0.0 type=1
@elseif l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.9e-7 && w*$scale < 4.2e-7
    model m_sky130_fd_pr__special_nfet_01v8__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=3.932304e-09 + mc_mm_switch * 0 * (4.148e-9 * 0.948 * (sky130_fd_pr__special_nfet_01v8__toxe_slope / sqrt(l * w * mult))) toxm=4.148e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=-1.0316e-8 lint=2.40595e-8 vth0=-3.035229047e+00 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__vth0_slope / sqrt(l * w * mult)) lvth0=4.467942390e-07 wvth0=1.604969324e-06 pvth0=-2.116649594e-13 k1=0.90707349 k2=-1.512266114e+00 lk2=1.830822307e-07 wk2=5.861840111e-07 pk2=-7.730653357e-14 k3=2.0 k3b=0.54 w0=0.0 dvt0=0.0 dvt1=0.53 dvt2=-0.032 dvt0w=-3.58 dvt1w=1670600.0 dvt2w=0.068 dsub=3.213159080e+00 ldsub=-3.414964965e-07 wdsub=-1.140985314e-06 pdsub=1.504742842e-13 minv=0.0 voffl=5.8197729e-9 lpe0=1.0325e-7 lpeb=-7.082e-8 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.002052 cit=0.0 voff=-0.20753 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__voff_slope / sqrt(l * w * mult)) nfactor=-6.688470453e+00 lnfactor=1.088828059e-06 wnfactor=1.671005367e-06 pnfactor=-2.203738588e-13 eta0=5.391586575e-04 leta0=-7.110477581e-11 weta0=-2.375705338e-10 peta0=3.133103957e-17 etab=-0.043998 u0=1.737752934e-01 lu0=-1.963751524e-08 wu0=-7.101431164e-08 pu0=9.365438434e-15 ua=-2.844196309e-09 lua=2.236700849e-16 wua=7.848996634e-16 pua=-1.035133525e-22 ub=1.292471857e-17 lub=-1.383787580e-24 wub=-5.386702958e-24 pub=7.104037728e-31 uc=-1.316563759e-10 luc=2.942467889e-17 wuc=1.330372550e-16 puc=-1.754508622e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=6.079825513e+05 lvsat=-5.527482872e-02 wvsat=-1.054266865e-01 pvsat=1.390377685e-8 a0=1.5 ags=1.25 a1=0.0 a2=0.42385546 b0=-5.001055089e-06 lb0=8.007095686e-13 wb0=4.651170118e-12 pb0=-6.134009663e-19 b1=8.433993044e-08 lb1=-8.963019229e-15 wb1=-3.961488857e-14 pb1=5.224451119e-21 keta=-9.616951609e-01 lketa=1.178118243e-07 wketa=4.295745452e-07 pketa=-5.665272059e-14 dwg=0.0 dwb=0.0 pclm=1.592040983e-02 lpclm=2.179064358e-08 wpclm=1.287409127e-07 ppclm=-1.697848030e-14 pdiblc1=0.35697215 pdiblc2=0.0084061121 pdiblcb=-0.10329577 drout=0.50332666 pscbe1=791419880.0 pscbe2=1.0e-12 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=65.968 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=0.0 prwg=0.021507 wr=1.0 alpha0=1.249543125e-07 lalpha0=-9.674040084e-15 walpha0=3.315074562e-21 palpha0=-4.371953410e-28 alpha1=0.85 beta0=1.626781828e+01 lbeta0=-2.463297428e-07 wbeta0=2.293410262e-14 pbeta0=-3.024567263e-21 agidl=0.0 bgidl=2300000000.0 cgidl=0.5 egidl=0.8 toxref=4.148e-9 dlcig=0.0 aigbacc=1.0 bigbacc=0.0 cigbacc=0.0 nigbacc=0.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=0.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=0.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=2.3267e-8 dwc=-3.2175e-8 xpart=0.0 cgso=2.4083264e-10 cgdo=2.4083264e-10 cgbo=1.0e-13 cgdl=0.0 cgsl=0.0 clc=1.0e-7 cle=0.6 cf=1.4067e-12 ckappas=0.6 vfbcv=-1.0 acde=0.4 moin=6.9 noff=3.4037 voffcv=-0.17287 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.84 noia=2.5e+42 noib=0.0 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-1.0e-7 af=1.0 kf=0.0 tnoia=15000000.0 tnoib=9900000.0 rnoia=0.94 rnoib=0.26 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=0.00275 jsws=6.0e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=11.7 xjbvs=1.0 pbs=0.729 cjs=0.00104159201 mjs=0.44 pbsws=0.2 cjsws=2.856175336e-11 mjsws=0.0009 pbswgs=0.95578 cjswgs=1.852257592e-10 mjswgs=0.8 tnom=30.0 kt1=-1.530400707e-01 lkt1=-8.957445783e-09 wkt1=-1.142115735e-15 pkt1=1.506234026e-22 kt2=-0.028878939 at=9.760154499e+03 lat=4.478722611e-03 wat=-3.668076824e-10 pat=4.837499000e-17 ute=-9.181979405e-01 lute=-4.758863367e-08 wute=-2.487840260e-07 pute=3.280988613e-14 ua1=-2.3847336e-11 ub1=7.0775317e-19 uc1=1.4718625e-10 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2928 tpb=0.0012287 tcj=0.000792 tpbsw=0.0 tcjsw=1.0e-5 tpbswg=0.0 tcjswg=0.0 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=9.8e-9 lkvth0=0.0 wkvth0=2.0e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=-2.7e-8 lku0=0.0 wku0=0.0 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.2 steta0=0.0 type=1
@end

ends // sky130_fd_pr__special_nfet_01v8
