parameters sky130_fd_pr__special_nfet_01v8__toxe_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_01v8__vth0_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_01v8__voff_slope_spectre=0.0
subckt sky130_fd_pr__special_nfet_01v8 (d g s b)
parameters l=1 w=1 nf=1.0 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0 mult=1
msky130_fd_pr__special_nfet_01v8 (d g s b) m_sky130_fd_pr__special_nfet_01v8__model l=l w=w nf=nf ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd
@if l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.6e-7 && w*$scale < 3.9e-7
    model m_sky130_fd_pr__special_nfet_01v8__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=4.299402e-09 + mc_mm_switch * 0 * (4.148e-9 * 1.0365 * (sky130_fd_pr__special_nfet_01v8__toxe_slope / sqrt(l * w * mult))) toxm=4.148e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=4.4379e-8 lint=-1.955e-10 vth0=-5.761948103e-01 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__vth0_slope / sqrt(l * w * mult)) lvth0=1.926902767e-07 wvth0=3.588927920e-07 pvth0=-6.474102964e-14 k1=0.90707349 k2=-2.127292966e-01 lk2=1.126438910e-08 wk2=2.549017715e-08 pk2=-4.598198546e-15 k3=2.0 k3b=0.54 w0=0.0 dvt0=0.0 dvt1=0.53 dvt2=-0.032 dvt0w=-3.58 dvt1w=1670600.0 dvt2w=0.068 dsub=3.348307880e+00 ldsub=-4.914893283e-07 wdsub=-9.048806583e-07 pdsub=1.632323268e-13 minv=0.0 voffl=5.8197729e-9 lpe0=1.0325e-7 lpeb=-7.082e-8 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.002052 cit=0.0 voff=4.807717192e-02 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__voff_slope / sqrt(l * w * mult)) lvoff=-4.610923335e-08 wvoff=-8.466783052e-08 pvoff=1.527331462e-14 nfactor=2.491112037e+00 lnfactor=-3.654346514e-07 wnfactor=-3.550381555e-06 pnfactor=6.404568790e-13 eta0=0.0 etab=-0.043998 u0=-1.079238621e-01 lu0=2.310247010e-08 wu0=2.921355350e-08 pu0=-5.269862129e-15 ua=-3.646487209e-09 lua=4.509272086e-16 wua=9.041212498e-16 pua=-1.630953364e-22 ub=-8.982836031e-18 lub=1.879092645e-24 wub=2.375846103e-24 pub=-4.285812543e-31 uc=-1.098904349e-10 luc=3.632162591e-17 wuc=1.055077913e-16 puc=-1.903265597e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=1.545278688e+05 lvsat=1.351780364e-02 wvsat=1.073867070e-02 pvsat=-1.937159546e-9 a0=1.5 ags=1.25 a1=0.0 a2=0.42385546 b0=0.0 b1=0.0 keta=-1.111168044e+00 lketa=1.881102996e-07 wketa=3.853090373e-07 pketa=-6.950628255e-14 dwg=0.0 dwb=0.0 pclm=1.992536747e-02 lpclm=2.908347269e-08 wpclm=1.154748791e-07 ppclm=-2.083062891e-14 pdiblc1=0.35697215 pdiblc2=0.0084061121 pdiblcb=-0.10329577 drout=0.50332666 pscbe1=791419880.0 pscbe2=1.0e-12 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=65.968 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=0.0 prwg=0.021507 wr=1.0 alpha0=1.598815202e-07 lalpha0=-1.953301170e-14 walpha0=1.949577618e-22 palpha0=-3.516859621e-29 alpha1=0.85 beta0=1.715716834e+01 lbeta0=-4.973683538e-07 wbeta0=3.410605132e-17 pbeta0=-6.153300092e-24 agidl=0.0 bgidl=2300000000.0 cgidl=0.5 egidl=0.8 toxref=4.148e-9 dlcig=0.0 aigbacc=1.0 bigbacc=0.0 cigbacc=0.0 nigbacc=0.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=0.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=0.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=-6.13e-10 dwc=2.252e-8 xpart=0.0 cgso=2.4892e-10 cgdo=2.4892e-10 cgbo=1.0e-13 cgdl=0.0 cgsl=0.0 clc=1.0e-7 cle=0.6 cf=1.4067e-12 ckappas=0.6 vfbcv=-1.0 acde=0.4 moin=6.9 noff=3.4037 voffcv=-0.17287 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.84 noia=2.5e+42 noib=0.0 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-1.0e-7 af=1.0 kf=0.0 tnoia=15000000.0 tnoib=9900000.0 rnoia=0.94 rnoib=0.26 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=0.00275 jsws=6.0e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=11.7 xjbvs=1.0 pbs=0.729 cjs=0.00154845795 mjs=0.44 pbsws=0.2 cjsws=4.24559793e-11 mjsws=0.0009 pbswgs=0.95578 cjswgs=2.75331171e-10 mjswgs=0.8 tnom=30.0 kt1=-1.207000734e-01 lkt1=-1.808612191e-08 wkt1=-7.255618328e-17 pkt1=1.308853026e-23 kt2=-0.028878939 at=-6.409846347e+03 lat=9.043060963e-03 wat=-2.302019857e-11 pat=4.152621841e-18 ute=-9.857496776e-01 lute=-5.290751180e-08 wute=-1.973030224e-07 pute=3.559168951e-14 ua1=-2.3847336e-11 ub1=7.0775317e-19 uc1=1.4718625e-10 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2928 tpb=0.0012287 tcj=0.000792 tpbsw=0.0 tcjsw=1.0e-5 tpbswg=0.0 tcjswg=0.0 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=9.8e-9 lkvth0=0.0 wkvth0=2.0e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=-2.7e-8 lku0=0.0 wku0=0.0 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.2 steta0=0.0 type=1
@elseif l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.9e-7 && w*$scale < 4.2e-7
    model m_sky130_fd_pr__special_nfet_01v8__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=4.299402e-09 + mc_mm_switch * 0 * (4.148e-9 * 1.0365 * (sky130_fd_pr__special_nfet_01v8__toxe_slope / sqrt(l * w * mult))) toxm=4.148e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=4.4379e-8 lint=-1.955e-10 vth0=-6.434254564e-01 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__vth0_slope / sqrt(l * w * mult)) lvth0=2.048180802e-07 wvth0=3.791454863e-07 pvth0=-6.839443341e-14 k1=0.90707349 k2=-1.051417275e-01 lk2=-8.143440074e-09 wk2=-6.919717345e-09 pk2=1.248254732e-15 k3=2.0 k3b=0.54 w0=0.0 dvt0=0.0 dvt1=0.53 dvt2=-0.032 dvt0w=-3.58 dvt1w=1670600.0 dvt2w=0.068 dsub=3.427842290e+00 ldsub=-5.058366201e-07 wdsub=-9.288397632e-07 pdsub=1.675543337e-13 minv=0.0 voffl=5.8197729e-9 lpe0=1.0325e-7 lpeb=-7.082e-8 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.002052 cit=0.0 voff=4.807716122e-02 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__voff_slope / sqrt(l * w * mult)) lvoff=-4.610923142e-08 wvoff=-8.466782730e-08 pvoff=1.527331403e-14 nfactor=2.491112224e+00 lnfactor=-3.654346851e-07 wnfactor=-3.550381611e-06 pnfactor=6.404568892e-13 eta0=0.0 etab=-0.043998 u0=3.623981224e-02 lu0=-2.903359274e-09 wu0=-1.421460009e-08 pu0=2.564185925e-15 ua=-3.646487008e-09 lua=4.509271723e-16 wua=9.041211891e-16 pua=-1.630953254e-22 ub=-8.982807731e-18 lub=1.879087540e-24 wub=2.375837577e-24 pub=-4.285797164e-31 uc=-1.191640290e-10 luc=3.799449883e-17 wuc=1.083013873e-16 puc=-1.953659556e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=-9.854663233e+05 lvsat=2.191624960e-01 wvsat=3.541528011e-01 pvsat=-6.388597795e-8 a0=1.5 ags=1.25 a1=0.0 a2=0.42385546 b0=0.0 b1=0.0 keta=-1.111168377e+00 lketa=1.881103596e-07 wketa=3.853091375e-07 pketa=-6.950630063e-14 dwg=0.0 dwb=0.0 pclm=1.992526528e-02 lpclm=2.908349112e-08 wpclm=1.154749098e-07 ppclm=-2.083063446e-14 pdiblc1=0.35697215 pdiblc2=0.0084061121 pdiblcb=-0.10329577 drout=0.50332666 pscbe1=791419880.0 pscbe2=1.0e-12 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=65.968 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=0.0 prwg=0.021507 wr=1.0 alpha0=1.598815119e-07 lalpha0=-1.953301020e-14 walpha0=2.698696521e-21 palpha0=-4.868205662e-28 alpha1=0.85 beta0=1.715716828e+01 lbeta0=-4.973683427e-07 wbeta0=1.866987986e-14 pbeta0=-3.367880197e-21 agidl=0.0 bgidl=2300000000.0 cgidl=0.5 egidl=0.8 toxref=4.148e-9 dlcig=0.0 aigbacc=1.0 bigbacc=0.0 cigbacc=0.0 nigbacc=0.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=0.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=0.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=-6.13e-10 dwc=2.252e-8 xpart=0.0 cgso=2.4892e-10 cgdo=2.4892e-10 cgbo=1.0e-13 cgdl=0.0 cgsl=0.0 clc=1.0e-7 cle=0.6 cf=1.4067e-12 ckappas=0.6 vfbcv=-1.0 acde=0.4 moin=6.9 noff=3.4037 voffcv=-0.17287 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.84 noia=2.5e+42 noib=0.0 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-1.0e-7 af=1.0 kf=0.0 tnoia=15000000.0 tnoib=9900000.0 rnoia=0.94 rnoib=0.26 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=0.00275 jsws=6.0e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=11.7 xjbvs=1.0 pbs=0.729 cjs=0.00154845795 mjs=0.44 pbsws=0.2 cjsws=4.24559793e-11 mjsws=0.0009 pbswgs=0.95578 cjswgs=2.75331171e-10 mjswgs=0.8 tnom=30.0 kt1=-1.207000705e-01 lkt1=-1.808612243e-08 wkt1=-9.297602688e-16 pkt1=1.677203931e-22 kt2=-0.028878939 at=-6.409845432e+03 lat=9.043060798e-03 wat=-2.986065811e-10 pat=5.386595149e-17 ute=-9.684077382e-01 lute=-5.603584160e-08 wute=-2.025271429e-07 pute=3.653407383e-14 ua1=-2.3847336e-11 ub1=7.0775317e-19 uc1=1.4718625e-10 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2928 tpb=0.0012287 tcj=0.000792 tpbsw=0.0 tcjsw=1.0e-5 tpbswg=0.0 tcjswg=0.0 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=9.8e-9 lkvth0=0.0 wkvth0=2.0e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=-2.7e-8 lku0=0.0 wku0=0.0 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.2 steta0=0.0 type=1
@end

ends // sky130_fd_pr__special_nfet_01v8
